US08030337B2
1-Methyl-2-{[2-(2-methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]amino}-2-oxoethyl Acetate
2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethanamine hydrochloride (150 mg, 0.593 mmol) and triethylamine (166 μL, 1.19 mmol) were dissolved in tetrahydrofuran (5 mL), 2-chloro-1-methyl-2-oxoethyl acetate (108 mg, 0.712 mmol) was added, and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=70/30→100/0) to give the title compound (78.4 mg, yield 40%).

reactant | 2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethanamine hydrochloride | 0.593 mmol, 150 mg | Cl.CC=1OC2=C(N1)C=CC=1CCC(C12)CCN
reactant | triethylamine | 1.19 mmol, 166 μL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methyl-2-oxoethyl acetate | 0.712 mmol, 108 mg | C(C)(=O)OC(C(=O)Cl)C | C5H7ClO3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-Methyl-2-{[2-(2-methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]amino}-2-oxoethyl Acetate | 78.4 mg, yield 40% | C(C)(=O)OC(C(=O)NCCC1CCC=2C=CC=3N=C(OC3C12)C)C | C18H22N2O4
